US06352993B1
5,6-dimethyl-2-(propylamino)-4-(1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride
Propylamine(0.44 g, 5.4 mmol) and triethylamine(0.38 ml, 2.7 mmol) were added to a mixture solution of 2-chloro-5,6-dimethyl-4-(1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine(0.5 g, 1.8 mmol) in dimethylformamide(10 ml). The reaction mixture was stirred for 5 hours at 130° C., cooled to a room temperature, diluted with dichloromethane, and then washed with aqueous sodium hydroxide and water. The separated organic layer was dried over anhydrous magnesium sulfate, concentrated under a reduced pressure, and then purified by column chromatography to give free base form of the titled compound. Ethyl ether saturated with hydrochloric acid was added to a mixture solution of the free base form of the titled compound in ethyl ether. The resulting solid was filtered and dried to obtain 490 mg of the titled compound.

reactant | Propylamine | 5.4 mmol, 0.44 g | C(CC)N | C3H9N
reactant | triethylamine | 2.7 mmol, 0.38 ml | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-5,6-dimethyl-4-(1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine | 1.8 mmol, 0.5 g | ClC1=NC(=C(C(=N1)N1CC2=CC=CC=C2CC1)C)C | C15H16ClN3
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | 5,6-dimethyl-2-(propylamino)-4-(1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride | Cl.CC=1C(=NC(=NC1C)NCCC)N1CC2=CC=CC=C2CC1 | InChI=1S/C18H24N4.ClH/c1-4-10-19-18-20-14(3)13(2)17(21-18)22-11-9-15-7-5-6-8-16(15)12-22;/h5-8H,4,9-12H2,1-3H3,(H,19,20,21);1H
